US07619095B2
2-Methyl-3-nitrophenyl ethyl alcohol (100 g) is added to toluene (500 ml). POCl3 (62 ml) is added to the reaction mixture and refluxed for 2 to 3 hrs. Toluene is distilled off completely to give 2-Methyl-3-nitro phenylethyl chloride

reactant | 2-Methyl-3-nitrophenyl ethyl alcohol | 100 g | CC1=C(C=CC=C1[N+](=O)[O-])CCO | C9H11NO3
reactant | POCl3 | 62 ml | O=P(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Methyl-3-nitro phenylethyl chloride | CC1=C(C=CC=C1[N+](=O)[O-])CCCl | C9H10ClNO2
